US05614633
A mixture of 600 mg of 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 1.2 ml of bromoacetoaldehyde dimethylacetal, 11 mg of potassium hydroxide and 3 ml of benzene was refluxed with heating for 1 hour. Water was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, hexane:ethyl acetate=2:1) to obtain 380 mg of 2-(2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-yl)thiazol represented by the following formula.

reactant | 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 600 mg | FCC1(OC2=C(C(=C1)C(N)=S)C=C(C=C2)[N+](=O)[O-])CF | C12H10F2N2O3S
reactant | bromoacetoaldehyde dimethylacetal | 1.2 ml | COC(CBr)OC | C4H9BrO2
reactant | potassium hydroxide | 11 mg | [OH-].[K+]
reactant | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | 2-(2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-yl)thiazol | 380 mg | FCC1(OC2=C(C(=C1)C=1SC=CN1)C=C(C=C2)[N+](=O)[O-])CF | C14H10F2N2O3S
